US09024027B2
Step 3: Preparation of methyl 2-(5-methoxy-2-oxoindolin-1-yl)acetate (115)
To a solution of methyl 2-(3,3-dichloro-5-methoxy-2-oxoindolin-1-yl)acetate (1.3 g, 4.27 mmol) in acetic acid (30 ml), zinc powder (1.118 g, 17.10 mmol) was added, and the mixture was reacted at room temperature for 15 minutes; then the insoluble inorganics were filtered off and washed with MeOH. The crude title compound was obtained after evaporation under reduced pressure and used in the next step without further purification (760 mg, 3.23 mmol, 76% yield). MS/ESI+ 236.0 [MH]+.

reactant | methyl 2-(3,3-dichloro-5-methoxy-2-oxoindolin-1-yl)acetate | 4.27 mmol, 1.3 g | ClC1(C(N(C2=CC=C(C=C12)OC)CC(=O)OC)=O)Cl | C12H11Cl2NO4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 17.10 mmol, 1.118 g | [Zn] | Zn
product | methyl 2-(5-methoxy-2-oxoindolin-1-yl)acetate | 76% yield | COC=1C=C2CC(N(C2=CC1)CC(=O)OC)=O | C12H13NO4
